data/mechanisms/records/IMS9-EQ9.37f.json
{"mechanism_id": "IMS9-EQ9.37f", "species": [{"species_id": "isopropyl_pentyl_ether_molecular_ion", "mapped_smiles": "[CH2:1]([O+:6][CH:7]([CH3:8])[CH3:9])[CH2:2][CH2:3][CH:4]([1H:12])[CH3:5]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "pentyl_cation_mz71", "mapped_smiles": "[CH2+:1][CH2:2][CH2:3][CH:4]([1H:12])[CH3:5]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "isopropoxy_radical", "mapped_smiles": "[O:6][CH:7]([CH3:8])[CH3:9]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethylene_neutral", "mapped_smiles": "[CH2:1]=[CH2:2]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "isopropyl_cation_mz43", "mapped_smiles": "[CH2:3]([1H:12])[CH+:4][CH3:5]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}], "states": [{"state_id": "state_precursor", "species_ids": ["isopropyl_pentyl_ether_molecular_ion"]}, {"state_id": "state_mz71", "species_ids": ["pentyl_cation_mz71", "isopropoxy_radical"]}, {"state_id": "state_mz43", "species_ids": ["isopropyl_cation_mz43", "ethylene_neutral", "isopropoxy_radical"]}], "steps": [{"step_id": "step_inductive_charge_site", "from_state": "state_precursor", "to_state": "state_mz71", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 6]}, "target": {"type": "lone_pair", "atom_maps": [6]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_inductive_ethylene_loss", "from_state": "state_mz71", "to_state": "state_mz43", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [4, 12]}, "target": {"type": "bond", "atom_maps": [3, 12]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_i", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_charge_site", "support_type": "textbook_proposed", "locator": {"page": 262, "equation": "9.37", "figure": null, "panel": null, "section": "9.6 Ethers (fourth arrow off the molecular ion, labelled 'i', to m/z 71)"}, "confidence": 0.8, "curator_note": "The other charge-site cleavage of the molecular ion, breaking the O6-C1 bond instead of O6-C7 and so keeping the charge on the PENTYL side: the neutral is the isopropoxy radical (C3H7O., 59.0497) and the ion is the C5H11+ the prose pairs with C3H7+ as 'the most abundant ions'. One curator-supplied move; expected soft lone-pair line on atom 6. This is the page's FIRST of two routes to m/z 71 (the other is the long right-hand arrow from m/z 115, IMS9-EQ9.37b). As in that record, the ion is stored as the PRIMARY n-pentyl cation because that is what is drawn, with the prose's own caveat about a rearrangement to avoid the primary structure noted there. ARC COUNT (convention D): ZERO curved arrows in the whole of equation 9.37 -- nine reaction arrows, each carrying only a reaction-type label (alpha, i, rH, and one 'i, - C2H4'), and not one fishhook or two-electron arc on any structure. Every electron move in every record of this equation is therefore curator-supplied. Any record of eq 9.37 claiming drawn electron-pushing would be fabricated. SUBSTRATE: isopropyl pentyl ether, C5H11-O-CH(CH3)2, drawn skeletally with '+.' on the oxygen. The equation carries NO label on the substrate; the compound and its molecular ion are named on the FACING page (PDF 272, printed p261): 'The important primary cleavages of isopropyl pentyl ether (Djerassi and Fenselau 1965) are due to these two types of cleavage (Equation 9.37)', with Figure 9.14 there showing '130M+.'. C8H18O, M+. computed 130.1352 -- and 'm/z 130' is therefore NOT printed in this equation; it is stored as the precursor_mz on the authority of the facing page and is not claimed as a printed label. ATOM MAPS: 1-5 = the pentyl carbons (1 = the CH2 bonded to oxygen, 5 = the terminal methyl), 6 = the oxygen, 7 = the isopropyl methine, 8 and 9 = its two methyls; 10, 11, 12 = the migrating hydrogens where a record needs one explicit. 'THESE TWO TYPES OF CLEAVAGE' names the two channel families the equation draws: alpha-cleavage (the book's radical-site reaction, giving m/z 115 and 73) and charge-site cleavage i (giving m/z 43 and 71). The prose adds the abundance ordering: 'the most abundant ions, C3H7+ and C5H11+, are produced by charge-site-initiated reactions', and 'For the competing alpha-cleavages, the loss of methyl from the tertiary carbon yielding m/z 115 is almost as favorable as the loss of the larger butyl group from the secondary carbon.'"}, {"evidence_id": "evidence_step_c2h4", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_ethylene_loss", "support_type": "textbook_proposed", "locator": {"page": 262, "equation": "9.37", "figure": null, "panel": null, "section": "9.6 Ethers (upward arrow labelled 'i, - C2H4', 71 -> 43)"}, "confidence": 0.6, "curator_note": "ROUTE 3 OF THREE to m/z 43: an UPWARD arrow from m/z 71 labelled 'i' with '- C2H4' beside it -- one of only three printed neutral losses in the equation. Mass check: 71.0855 - 28.0313 = 43.0542. *** THE DRAWN PRODUCT FORCES A HYDRIDE SHIFT, AND IT IS DISCLOSED. *** Losing ethylene from a primary pentyl cation by simple bond cleavage would give an n-propyl cation, but the page draws ONE m/z 43 structure and it is the ISOPROPYL cation (a central vertex with two methyls). So this record encodes what is drawn: two two-electron moves, the C2-C3 pair closing the C1=C2 bond of the departing ethylene, and a hydride (map 12) shifting from C4 to C3, which puts the charge on the middle carbon. Both moves are curator-supplied -- the page draws no arcs and no hydrogen here, so the hydride's position is the curator's -- and the book itself says a rearrangement is involved: 'formation of the latter ion through both pathways probably involves a rearrangement to avoid the energetically unfavorable primary carbocation structure (Sections 8.2, 8.6, 8.10)'. An author who encoded the n-propyl cation instead would balance the masses just as well and would be wrong about the drawing. MEASUREMENTS (convention F): the page labels SIX m/z values -- 115, 45, 73, 31, 43, 71 -- and every one matches the exact mass computed from the structure encoded here (115.1117, 45.0335, 73.0648, 31.0178, 43.0542, 71.0855; RDKit ExactMolWt, formal charge applied). Only THREE neutral losses are printed ('C5H10' and 'C3H6' as product formulas, and '- C2H4' under one arrow); the others (CH3., C4H9., C5H11O., C3H7O., CH3CHO, CH2O) are curator inferences that close the mass balance exactly and are NOT quoted as printed text. No percentage is printed in the equation; Figure 9.14 on the facing page carries the abundances (43 as base peak, 71 strong, 115 and 130 weak) but it is a figure on another page, so nothing is stored as relative_intensity. *** m/z 43 IS THE ISOPROPYL CATION C3H7+ (43.0542), NOT THE ACETYL CATION C2H3O+ (43.0178). *** The drawn structure contains no oxygen at all -- one central vertex, two methyls, a '+' -- and the prose names C3H7+ explicitly. The same nominal mass means the opposite thing two pages earlier in eq 9.35, where m/z 43 IS the acetyl cation; that contrast is why this is spelled out."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 130.1352, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_71", "species_id": "pentyl_cation_mz71", "step_id": "step_inductive_charge_site", "observed_mz": 71.0855, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}, {"peak_id": "peak_43", "species_id": "isopropyl_cation_mz43", "step_id": "step_inductive_ethylene_loss", "observed_mz": 43.0542, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "manual_from_scan", "review_status": "unreviewed", "created_at": "2026-08-12T00:00:00Z", "modified_at": "2026-08-12T00:00:00Z"}}
